US07745438B2
(2R,3S,5R)-2-(2,2-Dimethylpropoxy)-5-formyl-3-methylmorpholine-4-carboxylic acid tert-butyl ester
Add pyridine sulfur trioxide complex (0.42 g) to (2R,3S,5S)-2-(2,2-dimethylpropoxy)-5-hydroxymethyl-3-methylmorpholine-4-carboxylic acid tert-butyl ester (0.46 g, 1.45 mmol) and N,N-diisopropylethylamine (0.66 g, 5.07 mmol) in dichloromethane (1 mL) and dimethylsulfoxide (4 mL) at −2° C. and stir 30 minutes. TLC shows some alcohol remaining. Add more pyridine sulfur trioxide (100 mg) and stir 30 minutes. Pour into ice-cold saturated aqueous sodium chloride and extract with ethyl acetate. Wash the ethyl acetate layer with 1 N aqueous citric acid, saturated aqueous sodium chloride), dry (magnesium sulfate), filter and concentrate to give the title compound as an oil (456 mg).

reactant | (2R,3S,5S)-2-(2,2-dimethylpropoxy)-5-hydroxymethyl-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 1.45 mmol, 0.46 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1CO)OCC(C)(C)C)C | C16H31NO5
reactant | N,N-diisopropylethylamine | 5.07 mmol, 0.66 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pyridine sulfur trioxide | 100 mg | S(=O)(=O)=O.N1=CC=CC=C1
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dimethylsulfoxide | 4 mL | CS(=O)C | C2H6OS
product | (2R,3S,5R)-2-(2,2-Dimethylpropoxy)-5-formyl-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 456 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1C=O)OCC(C)(C)C)C | C16H29NO5
